US07834014B2
5-[5-(4-Chloro-benzyl)-hexahydro-pyrrolo[3,4-b]pyrrol-1-yl]-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine
Tert-butyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate (0.5 mmol; see U.S. Pat. No. 5,071,999) was added to a mixture of 2-furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine (0.5 mmol, 1 eq.; see J. Chem. Soc. Perkin Trans. 1, 801 (1995)) and Et3N (0.6 mmol) in 5 mL of CH3CN. The reaction mixture was stirred at reflux for 2 hours. It was then cooled to room temperature and concentrated. The resulting residue was taken up in EtOAc, washed with brine, dried with Na2SO4, and concentrated under reduced pressure. This material (1-(7-amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-5-yl)-hexahydro-pyrrolo[3,4-b]pyrrole-5-carboxylic acid tert-butyl ester) was dissolved in 2 mL of 25% TFA in CH2Cl2 and allowed to stand at room temperature for 2 hours. It was then concentrated and the resulting residue was dissolved in 3 mL of CH3CN along with 0.5 mmol of 4-chlorobenzyl chloride and 0.8 mmol of Et3N. The resulting reaction mixture was stirred at room temperature for 18 hours. It was then concentrated and purified by preparative HPLC to afford the title compound. 1H NMR (400 Hz, DMSO-d6) δ 8.20 (brs, 1H), 7.70 (d, J=1.0 Hz, 1H), 7.10 (d, J=3.6 Hz, 1H), 7.0-7.30 (m, 4H) 6.60 (dd, J=3.6, 1.0 Hz, 1H), 4.80 (brs, 2H), 2.30-3.8 (m, 10H). MS m/z: 438 [M+H]+.

reactant | Tert-butyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C12NCCC2CN(C1)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 2-furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | 0.5 mmol, 1 eq. | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)S(=O)(=O)C)=N1 | C9H8N6O3S
reactant | Et3N | 0.6 mmol | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzyl chloride | 0.5 mmol | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | Et3N | 0.8 mmol | CCN(CC)CC | C6H15N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 5-[5-(4-Chloro-benzyl)-hexahydro-pyrrolo[3,4-b]pyrrol-1-yl]-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | ClC1=CC=C(CN2CC3N(CCC3C2)C2=NC=3N(C(=N2)N)N=C(N3)C=3OC=CC3)C=C1 | C21H21ClN8O
